US07465815B2
3-(4-Isopropylphenyl)-4-methyl-2,3,6,7,8,9-hexahydronaphtho[1,2-b]furan
Using 3-(4-isopropylphenyl)-4-methyl-6,7,8,9-tetrahydronaphtho[1,2-b]furan obtained in Reference Example 196, the title compound was synthesized in the same manner as in Reference Example 199. Yield 80%. Melting point: 54-55° C. (methanol).

reactant | 3-(4-isopropylphenyl)-4-methyl-6,7,8,9-tetrahydronaphtho[1,2-b]furan | C(C)(C)C1=CC=C(C=C1)C=1C2=C(OC1)C=1CCCCC1C=C2C | C22H24O
solvent | methanol | CO | CH4O
product | 3-(4-Isopropylphenyl)-4-methyl-2,3,6,7,8,9-hexahydronaphtho[1,2-b]furan | Yield 80% | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC1)C=1CCCCC1C=C2C | C22H26O
